US04045439
To a solution of ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate (1.0 g.) in dry pyridine (20 ml.) was added o-acetoxybenzoylchloride (0.8 g), and the mixture was stirred at room temperature for 16 hours. The solution was then heated to 100° C. for 1 hr., cooled to 20° C. and poured into a mixture of ice and excess N-HCl. The mixture was filtered and the solid residue crystallised from aqueous ethanol to give ethyl 6-o-acetoxybenzamido-4-hydroxycinnolin-3-yl carboxylate, m.p. 240°-2° C.

reactant | ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate | 1.0 g | NC=1C=C2C(=C(N=NC2=CC1)C(=O)OCC)O | C11H11N3O3
reactant | o-acetoxybenzoylchloride | 0.8 g | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 6-o-acetoxybenzamido-4-hydroxycinnolin-3-yl carboxylate | C(C)(=O)OC1=C(C(=O)NC=2C=C3C(=C(N=NC3=CC2)C(=O)OCC)O)C=CC=C1 | C20H17N3O6
